US09382356B2
(iii) Synthesis of bis(4-[p-trifluoromethylphenyl]-phenyl)cyclopentadienyl(octamethyloctahydrodibenzofluorenyl)methane
Under a nitrogen atmosphere, 0.81 g (2.20 mmol) of octamethyloctahydrodibenzofluorene and 100 ml of dehydrated tert-butyl methyl ether were added, and the mixture was stirred. This solution was cooled to 0° C., and 1.59 ml (2.42 mmol) of a 1.52 mol/l hexane solution of n-butyllithium was added. Subsequently, the mixture was stirred at room temperature for 24 hours. The resulting solution was cooled to −78° C., and 1.04 g (2 mmol) of 6,6-bis(4-(p-trifluoromethylphenyl)-phenyl)fulvene was added. The mixture was stirred at room temperature for 3 hours. When the completion of reaction was checked, 1 N hydrochloric acid was added to the reaction solution to perform liquid-liquid phase separation. The aqueous layer was subjected to extraction with diethyl ether two times, and the extract was combined with the organic layer previously obtained. The liquid was washed with a saturated aqueous solution of sodium hydrogen carbonate, water and saturated brine, and dried over magnesium sulfate. The solvent was distilled off, and the residue was subjected to separation by silica gel chromatography to obtain a target product (yield 0.92 g (47%)). The target product was identified by 1H-NMR and FD-MS spectroscopy.

reactant | octamethyloctahydrodibenzofluorene | 2.20 mmol, 0.81 g | CC1(C(C(C(C=2C1C1C(=C3C=4C=CC=CC4CC23)C=CCC1)(C)C)(C)C)(C)C)C | C29H38
reactant | n-butyllithium | C(CCC)[Li]
reactant | 6,6-bis(4-(p-trifluoromethylphenyl)-phenyl)fulvene | 2 mmol, 1.04 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=C1C=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)(F)F | C32H20F6
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | hexane | 1.52 mol/l | CCCCCC | C6H14
solvent | tert-butyl methyl ether | 100 ml | COC(C)(C)C | C5H12O
product | bis(4-[p-trifluoromethylphenyl]-phenyl)cyclopentadienyl(octamethyloctahydrodibenzofluorenyl)methane | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(C1(C(C(C(C2(C3C(=C4C=5C=CC=CC5CC4=C21)C=CCC3)C)(C)C)(C)C)(C)C)C)(C3C=CC=C3)C3=CC=C(C=C3)C3=CC=C(C=C3)C(F)(F)F)(F)F | C61H58F6
